US07915267B2
5-methyl-4-oxo-N-[(2-{[2-(1H-1,2,4-triazol-3-ylthio)ethyl]oxy}pyridin-4-yl)methyl]-3,4-dihydrothieno[2,3-d]pyrimidine-2-carboxamide
A solution of 5-methyl-4-oxo-N-({2-[(2-{[1-(triphenylmethyl)-1H-1,2,4-triazol-3-yl]thio}ethyl)oxy]pyridin-4-yl}methyl)-3,4-dihydrothieno[2,3-d]pyrimidine-2-carboxamide (395.0 mg, 0.576 mmol), triethylsilane (0.097 mL, 0.605 mmol) and trifluoroacetic acid (3.0 mL) in dichloromethane (10 mL) was stirred at room temperature for 2 hr. The reaction mixture was concentrated under reduced pressure, and the residue was crystallized from ethyl acetate-IPE to give the title compound as a white powder (53.6 mg, 21%).

reactant | 5-methyl-4-oxo-N-({2-[(2-{[1-(triphenylmethyl)-1H-1,2,4-triazol-3-yl]thio}ethyl)oxy]pyridin-4-yl}methyl)-3,4-dihydrothieno[2,3-d]pyrimidine-2-carboxamide | 0.576 mmol, 395.0 mg | CC1=CSC=2N=C(NC(C21)=O)C(=O)NCC2=CC(=NC=C2)OCCSC2=NN(C=N2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C37H31N7O3S2
reactant | triethylsilane | 0.605 mmol, 0.097 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluoroacetic acid | 3.0 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 5-methyl-4-oxo-N-[(2-{[2-(1H-1,2,4-triazol-3-ylthio)ethyl]oxy}pyridin-4-yl)methyl]-3,4-dihydrothieno[2,3-d]pyrimidine-2-carboxamide | 53.6 mg, 21% | CC1=CSC=2N=C(NC(C21)=O)C(=O)NCC2=CC(=NC=C2)OCCSC2=NNC=N2 | C18H17N7O3S2
